US09328096B2
5-(5-(6-amino-3-fluoropyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide
A solution of 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxamide (Preparation 3, 50 mg, 0.11 mmol), 6-chloro-5-fluoropyridin-2-amine (47 mg, 0.32 mmol), tetrakis(triphenylphosphine)palladium (12 mg, 0.01 mmol) and potassium carbonate (30 mg, 0.21 mmol) in dioxane (1.5 mL) and water (1.5 mL) was heated at 110° C. under microwave irradiation for 1 hour. The reaction was poured into water (25 mL) and extracted with EtOAc (2×25 mL). The organic layer was washed with brine (10 mL), dried over magnesium sulphate and concentrated in vacuo.

reactant | 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-1-phenyl-1H-pyrazole-3-carboxamide | 0.11 mmol, 50 mg | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H24BClN4O4
reactant | 6-chloro-5-fluoropyridin-2-amine | 0.32 mmol, 47 mg | ClC1=C(C=CC(=N1)N)F | C5H4ClFN2
reactant | potassium carbonate | 0.21 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 mL | O | H2O
product | 5-(5-(6-amino-3-fluoropyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide | NC1=CC=C(C(=N1)C=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C1)Cl)F | C22H16ClFN6O2
